US07112593B2
c) 1-(3-Bromophenyl)-3,4-epoxypyrrolidine
A mixture of 5.4 g of cis-2,3-bis(methanesulfonyloxymethyl)oxirane, 2 ml of 3-bromoaniline, 4.3 g of anhydrous potassium carbonate and 30 ml of N,N-dimethylformamide was stirred under nitrogen atmosphere at 60° C. for 2 hours and at 110° C. for 2 hours. The reaction mixture was extracted with ethyl acetate-water, and the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and then evaporated. The residue was purified by silica gel column chromatography with 5–10% ethyl acetate/hexane, to give 420 mg of the title compound.

reactant | cis-2,3-bis(methanesulfonyloxymethyl)oxirane | 5.4 g | CS(=O)(=O)OC[C@@H]1O[C@@H]1COS(=O)(=O)C | C6H12O7S2
reactant | 3-bromoaniline | 2 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3-Bromophenyl)-3,4-epoxypyrrolidine | 420 mg | BrC=1C=C(C=CC1)N1CC2C(C1)O2 | C10H10BrNO
